data/oMe_Silver.jsonl
{"reaction_id": "NR-335_1-C(C)(C)C_2-CO_3-Br_4-C_5-CC_6-C_7-c2ccc(F)cc2","level": "medium","name": "Robinson Annulation","reactants_smiles": ["C(=C(Br)C(=O)C)(C(C)(C)C)CO","C(CC)(C)C(=O)c2ccc(F)cc2"],"products_smiles": ["C1(=C(C)C(=O)C(C(C(C)(C)C)(CO)C1(CC)C)Br)c2ccc(F)cc2"],"conditions": "Catalytic base","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=C(CC)C)([O-])c2ccc(F)cc2","step_weight": 0,"rationale": "The base abstracts an α-proton adjacent to the carbonyl, generating a resonance-stabilized enolate due to delocalization over the carbonyl oxygen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CO)C(=C([O-])CC)Br)(CC)C)c2ccc(F)cc2","step_weight": 0,"rationale": "The nucleophilic enolate attacks the β-carbon of the α,β-unsaturated carbonyl via Michael addition, favored by conjugation and electrophilicity at the β-position."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CO)C(Br)C(=O)CC)(CC)C)c2ccc(F)cc2","step_weight": 0,"rationale": "Protonation of the enolate oxygen regenerates a neutral carbonyl, stabilizing the intermediate and preparing for further enolate formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C(C(C)(C)C)(CO)C(Br)C([O-])=CC)(CC)C)c2ccc(F)cc2","step_weight": 0,"rationale": "The base deprotonates another α-position, forming a new enolate that is positioned for intramolecular nucleophilic attack."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)C(=O)C(C(C(C)(C)C)(CO)C1(CC)C)Br)(c2ccc(F)cc2)[O-]","step_weight": 0,"rationale": "The enolate attacks the intramolecular carbonyl, forming a six-membered ring via aldol cyclization, favored by minimal ring strain."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)=C([O-])C(C(C(C)(C)C)(CO)C1(CC)C)Br)(c2ccc(F)cc2)O","step_weight": 0,"rationale": "Proton transfer converts the alkoxide intermediate into a β-hydroxy carbonyl, setting up for elimination."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(=C(C)C(=O)C(C(C(C)(C)C)(CO)C1(CC)C)Br)c2ccc(F)cc2","step_weight": 0,"rationale": "Base-induced elimination of water forms the α,β-unsaturated carbonyl, driven by conjugation and thermodynamic stability of the enone."}],"description": "Under basic conditions, the Robinson annulation proceeds via enolate formation, Michael addition to an α,β-unsaturated carbonyl, followed by intramolecular aldol condensation and dehydration. The base promotes enolate generation, facilitates C–C bond formation, and drives cyclization to the conjugated cyclohexenone product."}
{"reaction_id": "NG-008_1-C=C_2-C(C)CC_3-c1c(Cl)cc(Cl)cc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(C=C)(=O)(C(C)CC)","C(c1c(Cl)cc(Cl)cc1)(=O)OO"],"products_smiles": ["C(C=C)(=O)OC(C)CC"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=[OH+])C(C)CC","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C=C)([OH])(OOC(=O)c1c(Cl)cc(Cl)cc1)C(C)CC","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(C=C)(=[OH+])OC(C)CC","rationale": "A 1,2-shift occurs from the more migratory C(C)CC group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C=C)(=O)OC(C)CC","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
